US09029402B2
Synthesis of ethyl 2-(4-carbamoyl-2-methylphenyl)-1-(4-chloro-2-methoxyphenyl)-1H-pyrrole-3-carboxylate (3-2, R1=4-chloro-2-methoxyphenyl)
To a solution of ethyl 1-(4-chloro-2-methoxyphenyl)-2-(4-cyano-2-methylphenyl)-1H-pyrrole-3-carboxylate (5.0 g, 12.7 mmol) in DMSO (10 mL) was added aqueous NaOH solution (2 mol/L, 1.0 mL) and 30% aqueous solution of H2O2 (1.0 mL), the reaction mixture was stirred at room temperature for four hours. TLC (EtOAc: MeOH=10:1) indicated that the starting material was consumed. Saturated aqueous Na2SO3 solution was added to quench the reaction, and the aqueous layer was extracted with EtOAc (20 mL×3). The combined organic layer was washed with brine (20 mL), dried over Na2SO4, filtered, concentrated, and purified by column chromatograph to afford the titled compound as a yellow oil (1.2 g, yield: 23.1%). MS (ESI): m/z 413.1 [M+1]+.

reactant | ethyl 1-(4-chloro-2-methoxyphenyl)-2-(4-cyano-2-methylphenyl)-1H-pyrrole-3-carboxylate | 12.7 mmol, 5.0 g | ClC1=CC(=C(C=C1)N1C(=C(C=C1)C(=O)OCC)C1=C(C=C(C=C1)C#N)C)OC | C22H19ClN2O3
reactant | NaOH | 2 mol/L, 1.0 mL | [OH-].[Na+]
reactant | H2O2 | 1.0 mL | OO | H2O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | MeOH | CO | CH4O
product | ethyl 2-(4-carbamoyl-2-methylphenyl)-1-(4-chloro-2-methoxyphenyl)-1H-pyrrole-3-carboxylate | 1.2 g, yield: 23.1% | C(N)(=O)C1=CC(=C(C=C1)C=1N(C=CC1C(=O)OCC)C1=C(C=C(C=C1)Cl)OC)C | C22H21ClN2O4
